* D:\UTN\Teoría de Circuitos II\Unidad 1 - Introducción\TPSemanal 1\Pasatodo1erOrden.asc
R1 N001 vi 1k
R2 vo N001 1k
R3 0 N002 1k
C1 N002 vi 1000µ
XU1 N001 N002 vo opamp Aol=100K GBW=10Meg
V1 vi 0 SINE(0 1 1K) AC 1
.ac dec 10 10u 10k
.inc opamp.sub
.backanno
.end
